US04323566
Ethyl-[5-[[2-[[[5-[(dimethylamino)methyl]-2-thienyl]methyl]thio]ethyl]amino]-1-methyl-1H-1,2,4-triazole-3-yl]carbamate
A cooled mixture of ethylchloroformate (0.45 g) in pyridine was treated with a solution of N5 -[2-[[[5-[(dimethylamino)methyl]-2-thienyl]methyl]thio]ethyl]-1-methyl-1H-1,2,4-triazole-3,5-diamine (0.7 g) in pyridine (8 ml). Sodium carbonate (2 g) and water (10 ml) were added and the mixture evaporated in vacuo. The residue was dissolved in water (15 ml) and extracted with hot isopropanol (30 ml). The extract was evaporated and the residue purified by column chromatography (silica:methanol:0.88 ammonia; 79:1) to give the title compound (0.48 g).

reactant | ethylchloroformate | 0.45 g | C(C)OC(=O)Cl | C3H5ClO2
reactant | N5 -[2-[[[5-[(dimethylamino)methyl]-2-thienyl]methyl]thio]ethyl]-1-methyl-1H-1,2,4-triazole-3,5-diamine | 0.7 g | CN(C)CC1=CC=C(S1)CSCCNC1=NC(=NN1C)N | C13H22N6S2
reactant | Sodium carbonate | 2 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | water | 10 ml | O | H2O
solvent | pyridine | N1=CC=CC=C1 | C5H5N
solvent | pyridine | 8 ml | N1=CC=CC=C1 | C5H5N
product | Ethyl-[5-[[2-[[[5-[(dimethylamino)methyl]-2-thienyl]methyl]thio]ethyl]amino]-1-methyl-1H-1,2,4-triazole-3-yl]carbamate | 0.48 g | C(C)OC(NC1=NN(C(=N1)NCCSCC=1SC(=CC1)CN(C)C)C)=O | C16H26N6O2S2
